US06716861B2
tert-butyl (3R)-3-{3-[(cyclobutylamino)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and cyclobutylamine (250 μl, 2.96 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | cyclobutylamine | 2.96 mmol, 250 μl | C1(CCC1)N | C4H9N
product | tert-butyl (3R)-3-{3-[(cyclobutylamino)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexylhexanoate | C1(CCC1)NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C23H39N3O3
